US06248754B1
3-Bromo-4-ethoxybenzoic acid
To a solution of 4ethoxybenzoic acid (3.6 g, 0.022 mol) in chloroform (60 ml) was added bromine (1.13 ml, 0.022 mol) in chloroform (20 ml) dropwise. After stirring overnight at room temperature the precipitate was filtered off and dried to afford the title compound as a white solid.

reactant | 4ethoxybenzoic acid | 0.022 mol, 3.6 g | C(C)OC1=CC=C(C(=O)O)C=C1 | C9H10O3
reactant | bromine | 0.022 mol, 1.13 ml | BrBr | Br2
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-4-ethoxybenzoic acid | BrC=1C=C(C(=O)O)C=CC1OCC | C9H9BrO3
